US05998409
1-Piperidineethanol was reacted with 1H-indole-3-carboxylic acid chloride using the method described in Example 1 a to afford 2-(1-piperidyl)ethyl 1H-indole-3-carboxylate.

reactant | 1-Piperidineethanol | N1(CCCCC1)CCO | C7H15NO
reactant | 1H-indole-3-carboxylic acid chloride | N1C=C(C2=CC=CC=C12)C(=O)Cl | C9H6ClNO
product | 2-(1-piperidyl)ethyl 1H-indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCCN1CCCCC1 | C16H20N2O2
